US20010027196A1
2-Amino-4-(5-chloro-furan-2-yl)-6-(5-methyl-pyridin-2-yl-methoxy)-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-(5-methyl-pyridin-2-ylmethoxy)-pyrimidine-5-carbonitrile and N-chlorosuccinimide in DMF. ES-MS m/e (%): 344 (M{37Cl}+H+, 35), 342 (M{35Cl}+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-(5-methyl-pyridin-2-ylmethoxy)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)OCC1=NC=C(C=C1)C | C16H13N5O2
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Amino-4-(5-chloro-furan-2-yl)-6-(5-methyl-pyridin-2-yl-methoxy)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC(=CC1)Cl)C#N)OCC1=NC=C(C=C1)C | C16H12ClN5O2
